US08026257B2
(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)methanol.
To a solution of 7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-5-carbaldehyde (150 mg, 0.516 mmol) in ethanol (4 mL) at room temperature was added sodium borohydride (19.5 mg, 0.516 mmol). The reaction was stirred at room temperature for 20 min, cooled to 0° C., and quenched by the cautious addition of saturated ammonium chloride. The reaction was poured into diethyl ether and washed with water (2×), then brine, dried over magnesium sulfate, and concentrated to give 139 mg (92%) as an oil. 1H-NMR (CDCl3, 500 MHz) δ 7.97 (s, 1H), 7.38 (s, 1H), 7.01 (s, 1H), 5.65 (s, 2H), 4.64 (s, 2H), 3.58 (m, 2H), 2.57 (s, 3H), 2.51 (bs, 1H), 0.89 (m, 2H), −0.07 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 148.9, 135.1, 128.2, 125.5, 122.9, 121.7, 115.4, 81.5, 67.2, 65.6, 17.7, 17.1, −1.5.

reactant | 7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-5-carbaldehyde | 0.516 mmol, 150 mg | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)C=O | C15H22N2O2Si
reactant | sodium borohydride | 0.516 mmol, 19.5 mg | [BH4-].[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | (7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)methanol | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)CO | C15H24N2O2Si
